US04117019
A solution of 70 parts of o-xylyl chloride and 240 parts of benzene is added to a mixture of 135 parts of 80 per cent strength by weight sulfuric acid and 135 parts of 85 per cent strength by weight phosphoric acid at from 75° to 77° C, whilst stirring thoroughly. After a further 5 hours at from 75° to 77° C, 200 parts of water are added, the organic phase is separated off and 80 parts (88.9% of theory) of o-benzyltoluene boiling at 98°C at 0.2 mm Hg are isolated by distillation.

reactant | o-xylyl chloride | CC1=CC=CC=C1CCl | C8H9Cl
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | o-benzyltoluene | 88.9% | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
